US05362906
Step 1: Diethyl (t-Butyldimethylsiloxy)methylphosphonate
To a stirred solution of diethyl hydroxylmethylphosphonate (2.13 g, 12.7 mmol), triethylamine (2.12 ml, 15.2 mmol) and dimethylaminopyridine (77 mg, 0.63 mmol) in dichlormethane at 0° C. under argon, at r.t., was added t-butyldimethylsilyl chloride (1.85 g, 12.8 mmol) in dichloromethane (5 ml). After 14 hr the resulting slurry was poured into water (100 ml) and extracted with dichloromethane (2×100 ml). The organic extracts were dried (Na2SO4), concentrated in vacuo and the resulting oil chromatographed on silica gel eluted with ethylacetate:hexanes (1:1, v:v) to afford the title compound as a clear oil.

reactant | diethyl hydroxylmethylphosphonate | 12.7 mmol, 2.13 g | OCP(OCC)(OCC)=O | C5H13O4P
reactant | triethylamine | 15.2 mmol, 2.12 ml | C(C)N(CC)CC | C6H15N
reactant | dimethylaminopyridine | 0.63 mmol, 77 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | t-butyldimethylsilyl chloride | 12.8 mmol, 1.85 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | dichlormethane | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | water | 100 ml | O | H2O
product | Diethyl (t-Butyldimethylsiloxy)methylphosphonate | O([Si](C)(C)C(C)(C)C)CP(OCC)(OCC)=O | C11H27O4PSi
